US06894045B2
B. 3-(2,4-dichlorophenyl)-8-ethyl-7-[1-(methoxymethyl)butyl]-1-methyl-1,2,3,7-tetrahydro-6H-purin-6-one
A solution of 3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-1,2,3,7-tetrahydro-6H-purin-6-one (80 mg, 0.246 mmol) in anhydrous THF (1.2 mL) was heated to 50° C. PPh3 (100 mg, 0.492 mmol) and 1-methoxy-2-pentanol (87 mg, 0.738 mmol) were added. After stirring 5 min, DEAD (85 μL, 0.541 mmol) was added rapidly via syringe and the reaction mixture was stirred 25 min at 50° C. The mixture was cooled to rt and was poured into a separatory funnel containing saturated aqueous NaHCO3 (15 mL). The aqueous layer was extracted with EtOAc (3×15 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. Purification of the residue by prep plates (1000 μM silica gel plates, 50% ethyl acetate/50% hexanes) followed by further purification by reverse phase HPLC furnished the title compound (59 mg, 56% yield) as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 7.45 (d, J=2.2 Hz, 1H), 7.18 (dd, J=8.5, 2.2 Hz, 1H), 7.07 (d, J=8.4 Hz, 1H), 4.84 (ABq, J=11.4, Δυ=46.9 Hz, 2H), 4.24-4.17 (m, 2H), 3.79-3.74 (m, 1H), 3.32 (s, 3H), 2.96 (s, 3H), 2.75 (q, J=7.7 Hz, 2H), 2.21-2.05 (m, 1H), 1.95-1.81 (m, 1H), 1.30-1.20 (m, 5H), 0.92 (t, J=7.0 Hz, 3H); HRMS (ESI) m/e 425.1519 [(M+H)+, calcd for C20H26N15OCl2 425.1511].

reactant | 3-(2,4-dichlorophenyl)-8-ethyl-1-methyl-1,2,3,7-tetrahydro-6H-purin-6-one | 0.246 mmol, 80 mg | ClC1=C(C=CC(=C1)Cl)N1CN(C(C=2NC(=NC12)CC)=O)C | C14H14Cl2N4O
reactant | PPh3 | 0.492 mmol, 100 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 1-methoxy-2-pentanol | 0.738 mmol, 87 mg | COCC(CCC)O | C6H14O2
reactant | DEAD | 0.541 mmol, 85 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | 3-(2,4-dichlorophenyl)-8-ethyl-7-[1-(methoxymethyl)butyl]-1-methyl-1,2,3,7-tetrahydro-6H-purin-6-one | 59 mg, 56% yield | ClC1=C(C=CC(=C1)Cl)N1CN(C(C=2N(C(=NC12)CC)C(CCC)COC)=O)C | C20H26Cl2N4O2
